US07064124B2
N-(Pyridin-4-yl)-4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-hydroxybenzamide
2-Chloro-1,3-dimethylimidazolinium chloride (43 mg, 0.257 mmol), 4-aminopyridine (24 mg, 0.257 mmol) and triethylamine (26 mg, 0.257 mmol) were added to a methylene chloride solution (5 ml) of 4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (64 mg, 0.171 mmol) in a nitrogen atmosphere and the resulting solution was stirred all the night through. The reaction solution was diluted with chloroform, then washed with water and dried, and the solvent was removed by distillation. Subsequently, an aqueous saturated sodium hydrogencarbonate solution (10 ml) was added to a methanol solution (4 ml) of the obtained residue and the resulting solution was stirred for 1 hour. The reaction solution was extracted with ethyl acetate, then washed with water and dried, and the solvent was removed by distillation. The residue was purified by silica gel column chromatography (methylene chloride:methanol=30:1) to obtain the titled compound (5 mg, 0.012 mmol, 7.2%).

reactant | 2-Chloro-1,3-dimethylimidazolinium chloride | 0.257 mmol, 43 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | 4-aminopyridine | 0.257 mmol, 24 mg | NC1=CC=NC=C1 | C5H6N2
reactant | triethylamine | 0.257 mmol, 26 mg | C(C)N(CC)CC | C6H15N
reactant | 4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.171 mmol, 64 mg | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)O)C=C1)OC(C)=O)C)=O | C19H18O8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(Pyridin-4-yl)-4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-hydroxybenzamide | 0.012 mmol, 5 mg, 7.2% | N1=CC=C(C=C1)NC(C1=C(C=C(C=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)O)=O | C22H20N2O6
